US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methoxy-4-(2-oxopyrrolidin-1-ylmethyl)benzamide
Prepared analogously to Example 1g from 3-methoxy-4-(2-oxopyrrolidin-1-ylmethyl)benzoic acid, TBTU, diisopropylethylamine and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 59%; Rf value: 0.41 (silica gel; dichloromethane/ethanol=9:1); C22H23ClN4O3 (426.9); mass spectrum: (M+H)+=427/429 (chlorine isotope) and (M−H)-=425/427 (chlorine isotope).

reactant | 3-methoxy-4-(2-oxopyrrolidin-1-ylmethyl)benzoic acid | COC=1C=C(C(=O)O)C=CC1CN1C(CCC1)=O | C13H15NO4
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methoxy-4-(2-oxopyrrolidin-1-ylmethyl)benzamide | Yield: 59% | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)CN2C(CCC2)=O)OC)=O)C=C1 | C22H23ClN4O3
